US08426433B2
4. 3-amino-N-methyl-4-(methylamino)-N-phenylbenzene sulfonamide
N-Methyl-4-(methylamino)-3-nitro-N-phenylbenzoyl sulfonamide (9 g, 0.028 mol) was dissolved in isopropanol (90 ml). To this solution, hydrazine hydrate (11 ml), activated charcoal (2 g), and FeCl3.6H2O (0.5 g in 10 ml ethanol) were added. The reaction mixture was boiled for 8 h. The charcoal was removed by filtration. The filtrate was evaporated to dryness. The yield of 3-amino-N-methyl-4-(methylamino)-N-phenylbenzene sulfonamide was 8.1 g (99%).

reactant | N-Methyl-4-(methylamino)-3-nitro-N-phenylbenzoyl sulfonamide | 0.028 mol, 9 g | CN(S(=O)(=O)C(C1=CC(=C(C=C1)NC)[N+](=O)[O-])=O)C1=CC=CC=C1 | C15H15N3O5S
reactant | hydrazine hydrate | 11 ml | O.NN
reactant | charcoal | 2 g | C | CH4
solvent | isopropanol | 90 ml | C(C)(C)O | C3H8O
product | 3-amino-N-methyl-4-(methylamino)-N-phenylbenzene sulfonamide | NC=1C=C(C=CC1NC)S(=O)(=O)N(C1=CC=CC=C1)C | C14H17N3O2S
